US05244763
2-(3,4,5-triacetoxybenzamido)ethyl methacrylate (V):
3,4,5-Triacetoxybenzoyl chloride (0.050 mol) was dissolved in 100 mL CH2Cl2 at 0° C. To this was added 2-aminoethyl methacrylate hydrochloride (8.28 g, 0.050 mol), followed by dropwise addition of triethylamine (14.63 mL, 0.105 mol). After 30 min, 100 mL 1N HCl was added with vigorous stirring. The organic layer was isolated, washed with saturated NaHCO3 and 50 mL 1N HCl, dried over MgSO4, and evaporated to give an oil, which crystallized rapidly after the addition of 50 mL diethyl ether. The product was isolated by filtration and vacuum dried. Yield, 17.97 g as a white solid, 88%. 1H NMR (300 MHz, CDCl3), δ1.92 (s, 3H), 2.26 (s, 6H), 2.27 (s, 3H), 3.68 (m, 2H), 4.30 (t, 2H), 5.58 (m, 1H), 6.11 (s, 1H), 6.66 (t, broad, 1H), 7.51 (s, 2H). Anal., calcd for C19H21N1O9C 56.02, H 5.20, N 3.44, found C 55.99, H 5.15, N 3.50.

reactant | 3,4,5-Triacetoxybenzoyl chloride | 0.050 mol | C(C)(=O)OC=1C=C(C(=O)Cl)C=C(C1OC(C)=O)OC(C)=O | C13H11ClO7
reactant | 2-aminoethyl methacrylate hydrochloride | 0.050 mol, 8.28 g | Cl.C(C(=C)C)(=O)OCCN
reactant | triethylamine | 0.105 mol, 14.63 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,4,5-triacetoxybenzamido)ethyl methacrylate | C(C(=C)C)(=O)OCCNC(C1=CC(=C(C(=C1)OC(C)=O)OC(C)=O)OC(C)=O)=O | C19H21NO9
